US05824691
The mixture of 4-chloro-3-methylsulfonyl-5-nitrobenzoic acid (10.0 g) and conc. sulfuric acid (5.0 ml) in methanol (100.0 ml) was heated under reflux for 10 hours and the mixture was evaporated in vacuo. To the residue was added water and the mixture was adjusted to pH 8 with potassium carbonate. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give methyl 4-chloro-3-methylsulfonyl-5-nitrobenzoate (10.23 g).

reactant | 4-chloro-3-methylsulfonyl-5-nitrobenzoic acid | 10.0 g | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])S(=O)(=O)C | C8H6ClNO6S
reactant | sulfuric acid | 5.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100.0 ml | CO | CH4O
product | methyl 4-chloro-3-methylsulfonyl-5-nitrobenzoate | 10.23 g | ClC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])S(=O)(=O)C | C9H8ClNO6S
